US06969766B2
1-(Benzothiazole-2-sulfonyl)-4-{[6-N-(piperonyloxycarbonyl)-adenin-9-yl]-acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [6-N-(piperonyloxycarbonyl)-adenine-9-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 10.64 (s, 1H), 8.58 (s, 0.6H), 8.57 (s, 0.4H), 8.34 (m, 1H), 8.31 (s, 0.4H), 8.28 (s, 0.6H), 8.27 (m, 1H), 7.72 (m, 2H), 7.04 (s, 1H), 6.94 (d, 1H), 6.90 (d, 1H), 6.01 (s, 2H), 5.39 (s, 1.2H), 5.28 (s, 0.8H), 5.09 (s, 2H), 4.57 (s, 0.8H), 4.29 (m, 2.4H), 4.09 (t, 2H), 3.88 (t, 0.8H).

reactant | 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CNCC2)=O
reactant | [6-N-(piperonyloxycarbonyl)-adenine-9-yl]-acetic acid | C(C1=CC=2OCOC2C=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C16H13N5O6
product | 1-(Benzothiazole-2-sulfonyl)-4-{[6-N-(piperonyloxycarbonyl)-adenin-9-yl]-acetyl}-piperazin-2-one | S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CN(CC2)C(CN2C1=NC=NC(=C1N=C2)NC(=O)OCC2=CC=1OCOC1C=C2)=O)=O | C27H22N8O8S2
